US06642224B1
Ethyl(3-[(4-methoxybenzoyl)amino]-2-{[4-(4-methyl-1,4-diazepan-1-yl)benzoyl]amino}phenoxy)acetate hydrochloride (350 mg) was dissolved in 6 ml of methanol, then 1.8 ml of a 1N aqueous solution of sodium hydroxide was added at room temperature and the mixture was stirred for 2 hours. 1N hydrochloric acid (1.8 ml) was further added and the mixture was concentrated in vacuo. The resulting residue was purified by ODS column chromatography using 0.001N hydrochloric acid-acetonitrile (1:1) as an eluting solvent to give 254 mg of (3-[(4-methoxybenzoyl)amino]-2-{[4-(4-methyl-1,4-diazepan-1-yl)benzoyl]amino}phenoxy)acetic acid hydrochloride.

reactant | Ethyl(3-[(4-methoxybenzoyl)amino]-2-{[4-(4-methyl-1,4-diazepan-1-yl)benzoyl]amino}phenoxy)acetate hydrochloride | 350 mg | Cl.C(C)OC(COC1=C(C(=CC=C1)NC(C1=CC=C(C=C1)OC)=O)NC(C1=CC=C(C=C1)N1CCN(CCC1)C)=O)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.8 ml | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | (3-[(4-methoxybenzoyl)amino]-2-{[4-(4-methyl-1,4-diazepan-1-yl)benzoyl]amino}phenoxy)acetic acid hydrochloride | 254 mg | Cl.COC1=CC=C(C(=O)NC=2C(=C(OCC(=O)O)C=CC2)NC(C2=CC=C(C=C2)N2CCN(CCC2)C)=O)C=C1 | InChI=1S/C29H32N4O6.ClH/c1-32-15-4-16-33(18-17-32)22-11-7-20(8-12-22)29(37)31-27-24(5-3-6-25(27)39-19-26(34)35)30-28(36)21-9-13-23(38-2)14-10-21;/h3,5-14H,4,15-19H2,1-2H3,(H,30,36)(H,31,37)(H,34,35);1H
